US06403639B1
Under argon atmosphere, a solution of 11.12 g of 2,5-di-t-butylhydroquinone and 10.1 ml of anhydrous trimethylacetic acid in 200 ml of acetonitrile was stirred with a catalytic amount of sulfuric acid at room temperature for a whole day and night. After the reaction mixture was evaporated under reduced pressure, the concentrate was dissolved in diisopropyl ether. This solution was washed with a saturated aqueous sodium bicarbonate solution, then saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography (in n-hexane containing 5% ethyl acetate) to give 11.9 g of 2,5-di-t-butyl-4-trimethylacetoxyphenol as a white solid (yield 78%).

reactant | 2,5-di-t-butylhydroquinone | 11.12 g | C(C)(C)(C)C1=C(O)C=C(C(=C1)O)C(C)(C)C | C14H22O2
reactant | trimethylacetic acid | 10.1 ml | CC(C(=O)O)(C)C | C5H10O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2,5-di-t-butyl-4-trimethylacetoxyphenol | 11.9 g, yield 78% | C(C)(C)(C)C1=C(C=C(C(=C1)OC(C(C)(C)C)=O)C(C)(C)C)O | C19H30O3
